US04515799
2-{[4-(2-Chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridin-2-yl]methoxy}acetamide
Carbonyldiimidazole (9.80 g) was added to a suspension of 2-{[4-(2-chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridin-2-yl]methoxy}acetic acid (25.4 g) in tetrahydrofuran (400 ml) and the mixture stirred at room temperature for 2 hours. A stream of gaseous ammonia was passed through the resulting solution with stirring until the reaction was complete (as determined by t.l.c.) The reaction mixture was evaporated and the residue partitioned between ethyl acetate and water. The organic layer was washed with water, dried over sodium sulphate and evaporated. The residue was triturated with diethyl ether and the resulting solid collected, recrystallised from diethyl ether/n-hexane and dried to give the title compound (17.0 g), m.p. 127°-128° C.

reactant | Carbonyldiimidazole | 9.80 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-{[4-(2-chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridin-2-yl]methoxy}acetic acid | 25.4 g | ClC1=C(C=CC=C1)C1C(=C(NC(=C1C(=O)OC)C)COCC(=O)O)C(=O)OCC | C20H22ClNO7
reactant | ammonia | N | H3N
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
product | 2-{[4-(2-Chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridin-2-yl]methoxy}acetamide | 17.0 g | ClC1=C(C=CC=C1)C1C(=C(NC(=C1C(=O)OC)C)COCC(=O)N)C(=O)OCC | C20H23ClN2O6
